US06586429B2
A mixture of (R)-7,8-dihydro-8-ethoxymethyl-3-(5-hydroxyhexyl)-1-methyl-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione (60 mg, 0.164mmol) and 10% palladium on carbon (50% water, 100 mg) in acetic acid (25 ml) was treated with hydrogen gas (50 psi) on a Parr sharker at room temperature for 18 hours. After filtration through a pad of celite, concentration of the filtrate under reduced pressure provided (R)-7,8-dihydro-1,8-dimethyl-3-(5-hydroxyhexyl)-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione (CT-31878) as a white powder.

reactant | (R)-7,8-dihydro-8-ethoxymethyl-3-(5-hydroxyhexyl)-1-methyl-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione | 0.164mmol, 60 mg | C(C)OCN1CCN2C1=NC=1N(C(N(C(C21)=O)CCCC[C@@H](C)O)=O)C | C17H27N5O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | (R)-7,8-dihydro-1,8-dimethyl-3-(5-hydroxyhexyl)-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione | CN1C(N(C(C=2N3C(=NC12)N(CC3)C)=O)CCCC[C@@H](C)O)=O | C15H23N5O3
